US06730791B2
To a slurry of AlCl3 (210 g, 1.6 mol) in methylene chloride (200 mL) cooled in an ice bath is added 4-chlorobutyryl chloride (121 g) dropwise while maintaining the pot temperature below 10° C. After 10 minutes, ethyl benzeneacetic acid (118 g, 0.72 mol) is added dropwise maintaining the pot temperature below 10° C. The mixture is stirred at room temperature for 1 hour, then heated to 40° C. After 4 hours, the solution is cooled to room temperature and poured onto crushed ice (2L). Methylene chloride (1L) is added. The organic phase is separated. The aqueous phase is extracted with two 1L portions of methylene chloride. The combined organics are dried (MgSO4) and concentrated. Toluene (1L) is added and the solution is concentrated to ca. 500 mL. Ethanol (500 mL) is added. The solution is heated to 70° C. and HCl (g) is bubbled through for 20 minutes. The solution is sparged with N2 and concentrated. Chromatography through silica gel (2.5 L) using an ethyl acetate/heptane gradient gives a 1:1 mixture of meta, para ethyl (4-chloro-1-oxobutyl)benzene acetic acid (119 g). To a slurry of LiOH (23.5 g, 0.56 mol) in water (100 mL) and ethanol (100 mL) is added the 1:1 mixture of meta, para ethyl (4-chloro-1-oxobutyl)benzene acetic acid (50 g, 0.19 mol). The reaction becomes exothermic and is cooled with an ice bath. After 1 hour, the solution is allowed to warm to room temperature. After 18 hours, the mixture is concentrated. Water (400 mL) and conc. HCl are added (until pH 4). Ethyl acetate (600 mL) is added. The organic phase is separated, washed with brine and dried (MgSO4). The solution is heated on a steam bath and charcoal (ca. 3 g) is added. The mixture is filtered through Celite and concentrated. The residue is dissolved in ethyl acetate (300 mL) and heptane (600 mL) with heating. Seed crystals are added. After cooling an organic oil appears. Heptane (500 mL) is added and the mixture is heated to reflux, treated with charcoal (ca. 5 g), filtered and seeded. A solid forms and is collected. 1H NMR shows ca. 4:1 mixture of para:meta isomers. Recrystallization from ethyl acetate/heptane gives 4 (cyclopropylcarbonyl)benzeneacetic acid (4.3 g, 11%).

reactant | AlCl3 | 1.6 mol, 210 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-chlorobutyryl chloride | 121 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | ethyl benzeneacetic acid | 0.72 mol, 118 g | C(C)C1=C(C=CC=C1)CC(=O)O | C10H12O2
reactant | para ethyl (4-chloro-1-oxobutyl)benzene acetic acid | 119 g | C(C)C1=CC(=C(C=C1)CC(=O)O)C(CCCCl)=O | C14H17ClO3
reactant | LiOH | 0.56 mol, 23.5 g | [Li+].[OH-]
reactant | para ethyl (4-chloro-1-oxobutyl)benzene acetic acid | 0.19 mol, 50 g | C(C)C1=CC(=C(C=C1)CC(=O)O)C(CCCCl)=O | C14H17ClO3
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (cyclopropylcarbonyl)benzeneacetic acid | 4.3 g, 11% | C1(CC1)C(=O)C1=C(C=CC=C1)CC(=O)O | C12H12O3
